US05298625
A. (Z)-4-Chloro-3-[(trimethylsilyl)oxy]-2-butenoic acid, methyl ester
A solution of 4-chloro-3-oxobutanoic acid, methyl ester (60.4 g, 0.4 mol) and trimethylsilyl chloride (48.8 mL, 1.3 mol) in 500 mL dry ethyl acetate was cooled to -20° C. and triethylamine (17.42 mL, 1.25 mol) was added dropwise over 15 minutes under nitrogen atmosphere. The cold bath was removed and the heterogeneous mixture was stirred for two hours. The mixture was diluted with 200 mL dry hexane, stirred for five minutes and filtered under nitrogen. The filtrate was evaporated under vaccum. The product was redissolved in 100 mL hexane and filtered to remove a small amount of TEA.HCl. The filtrate was evaporated and the product was kept under pump vaccum for 0.5 hours to give the title compound (83.95 g, 94%).

reactant | 4-chloro-3-oxobutanoic acid, methyl ester | 0.4 mol, 60.4 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | trimethylsilyl chloride | 1.3 mol, 48.8 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 1.25 mol, 17.42 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | (Z)-4-Chloro-3-[(trimethylsilyl)oxy]-2-butenoic acid, methyl ester | 83.95 g, 94% | ClC/C(=C/C(=O)OC)/O[Si](C)(C)C | C8H15ClO3Si
